US04244961
A mixture of 2 g 1-oxa-3,8-diazaspiro[4.5]-decan 2-one, 3.12 g 2,3-epoxypropyl 1-naphthyl ether, 5 ml methanol and 10 ml toluene is heated at reflux for 5 hours. The solvent is removed by evaporation in vacuum. The residue is filtered through 20 g silica gel with 5% methanol/methylene chloride. Evaporation of solvent and recrystalization from ethyl acetate affords 3.35 g 8-[3-(1-naphthyloxy)-2-hydroxypropyl]-1-oxa-3,8-diazaspiro[4.5]decan-2-one, mp 178°-179°.

reactant | 1-oxa-3,8-diazaspiro[4.5]-decan 2-one | 2 g | O1C(NCC12CCNCC2)=O | C7H12N2O2
reactant | 2,3-epoxypropyl 1-naphthyl ether | 3.12 g | C1(=CC=CC2=CC=CC=C12)OCC1CO1 | C13H12O2
reactant | methanol | 5 ml | CO | CH4O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 8-[3-(1-naphthyloxy)-2-hydroxypropyl]-1-oxa-3,8-diazaspiro[4.5]decan-2-one | 3.35 g | C1(=CC=CC2=CC=CC=C12)OCC(CN1CCC2(CNC(O2)=O)CC1)O | C20H24N2O4
